US05864039
4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride as starting compound and 6-bromo-1-(3-chlorophenyl)-1-hexanone were reacted and treated in the same manner as in Example 172 to give 4-amino-5-chloro-2-methoxy-N-((1-(6-(3-chlorophenyl)-6-oxohexyl)piperidin-4-yl)methyl)benzamide hydrochloride.

reactant | 4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | 6-bromo-1-(3-chlorophenyl)-1-hexanone | BrCCCCCC(=O)C1=CC(=CC=C1)Cl | C12H14BrClO
product | 4-amino-5-chloro-2-methoxy-N-((1-(6-(3-chlorophenyl)-6-oxohexyl)piperidin-4-yl)methyl)benzamide hydrochloride | Cl.NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCC(=O)C2=CC(=CC=C2)Cl)C=C1Cl)OC | InChI=1S/C26H33Cl2N3O3.ClH/c1-34-25-16-23(29)22(28)15-21(25)26(33)30-17-18-9-12-31(13-10-18)11-4-2-3-8-24(32)19-6-5-7-20(27)14-19;/h5-7,14-16,18H,2-4,8-13,17,29H2,1H3,(H,30,33);1H
